* F:\circuits\DigitalCurrentSinkV3\HW\Simulation\MOSFET_CurrentSense_NoSignalInversion_AD8421.asc
M1 N001 N003 N004 N004 IRF510
XU1 V+ N004 N002 V- N003 V+ 0 LTC2058
V1 N001 0 15V
V2 0 V- 5V
V3 V+ 0 5V
V4 N002 0 {VPOSIN}
R1 N004 0 0.33R
XU2 0 N009 N011 V- N010 V+ V- LTC2058
M2 N012 N010 N009 N009 IRF7343P
V5 0 N012 15V
V6 N011 0 {VPOSIN}
R2 0 N009 0.33R
XU3 0 N008 N007 N009 V- 0 VNEGOUT V+ AD8421
XU4 0 N005 N006 N004 V- 0 VPOSOUT V+ AD8421
R3 N005 N006 10R
R4 N007 N008 10R
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\chris\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.STEP PARAM VPOSIN 0.5 5 0.5
.lib ADI1.lib
.lib LTC2.lib
.backanno
.end
